US04038065
A mixture of N-(n-decyl)cyanoacetamide (93.4 g., 0.417 mole), 2.4-pentanedione (41.7 g., 0.417 mole), piperidine (8 ml.) and 2 B-ethanol (500 ml.) is stirred and refluxed for 17 hours. The mixture is cooled in an ice bath and the solid which crystallizes out is collected by filtration to give 1-(n-decyl)-3-cyano-4,6-dimethylpyrid-2-one, 95.2 g. mp. 82°-83° C.

reactant | N-(n-decyl)cyanoacetamide | 0.417 mole, 93.4 g | C(CCCCCCCCC)NC(CC#N)=O | C13H24N2O
reactant | 2.4-pentanedione | 0.417 mole, 41.7 g | CC(CC(C)=O)=O | C5H8O2
reactant | piperidine | 8 ml | N1CCCCC1 | C5H11N
product | 1-(n-decyl)-3-cyano-4,6-dimethylpyrid-2-one | C(CCCCCCCCC)N1C(C(=C(C=C1C)C)C#N)=O | C18H28N2O
